US08304371B2
3-Bromo-4-methylbenzoic acid (10 g), N-bromosuccinimide (8.7 g) and 2,2′-azobisisobutyronitrile (0.4 g) were suspended in carbon tetrachloride (50 ml) and then heated to reflux for 2 hours. The mixture was returned to room temperature and added a 15% aqueous solution of citric acid (20 ml), and stirred for some time. Resulting crystals were filtered and washed with the 15% aqueous solution of citric acid (20 ml), and then dried, to obtain 3-bromo-4-(bromomethyl)benzoic acid (6 g).

reactant | 3-Bromo-4-methylbenzoic acid | 10 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | N-bromosuccinimide | 8.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.4 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | citric acid | 20 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-4-(bromomethyl)benzoic acid | 6 g | BrC=1C=C(C(=O)O)C=CC1CBr | C8H6Br2O2
